US08304552B2
Cystamine dihydrochloride (1.0 g, 4.44 mmol) was dissolved in MeOH (50 mL). Triethylamine (1.85 mL, 3 eq) was added at room temperature, followed by dropwise addition of Boc2O (0.97 g, 4.44 mmol) as a solution in MeOH (5 mL). The resulting reaction mixture was stirred at room temperature for 3 h. It was then concentrated under reduced pressure and the resulting residue was taken up in 1M aqueous NaH2PO4 (20 mL). The aqueous layer was washed with a 1:1 solution of pentane/EtOAc (10 mL), basified to pH 9 with 1M aqueous NaOH, and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure to afford tert-butyl 2-(2-(2-aminoethyl)disulfanyl)ethylcarbamate (500 mg, 44%).

reactant | Cystamine dihydrochloride | 4.44 mmol, 1.0 g | Cl.Cl.NCCSSCCN
reactant | Triethylamine | 1.85 mL, 3 eq | C(C)N(CC)CC | C6H15N
reactant | Boc2O | 4.44 mmol, 0.97 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 50 mL | CO | CH4O
solvent | MeOH | 5 mL | CO | CH4O
product | tert-butyl 2-(2-(2-aminoethyl)disulfanyl)ethylcarbamate | 500 mg, 44% | NCCSSCCNC(OC(C)(C)C)=O | C9H20N2O2S2
